US06861430B2
[(R)-2-(1H-indol-3-yl)-1-(4-pyridin-4-yl-1H-imidazol-2-yl)-ethyl]-carbamic acid tert-butyl ester (3.46 g, 8.58 mmol) is dissolved in a mixture of glacial acetic acid (99.5%, 25 ml) and conc. aq. HCl (37%, 2.5 ml) and the solution is stirred under argon at room temperature for 1 h. The resulting precipitate is filtered, washed with acetone and dried to give 3.04 g (94%) of (R)-2-(1H-indol-3-yl)-1-(4-pyridin-4-yl-1H-imidazol-2-yl)-ethylamine dihydrochloride (TLC: silica gel, toluene:ethanol:AcOH 4:4:1, Rf=0.18).

reactant | [(R)-2-(1H-indol-3-yl)-1-(4-pyridin-4-yl-1H-imidazol-2-yl)-ethyl]-carbamic acid tert-butyl ester | 8.58 mmol, 3.46 g | C(C)(C)(C)OC(N[C@H](CC1=CNC2=CC=CC=C12)C=1NC=C(N1)C1=CC=NC=C1)=O | C23H25N5O2
reactant | HCl | 2.5 ml | Cl | ClH
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | (R)-2-(1H-indol-3-yl)-1-(4-pyridin-4-yl-1H-imidazol-2-yl)-ethylamine dihydrochloride | 3.04 g, 94% | Cl.Cl.N1C=C(C2=CC=CC=C12)C[C@H](C=1NC=C(N1)C1=CC=NC=C1)N | InChI=1S/C18H17N5.2ClH/c19-15(9-13-10-21-16-4-2-1-3-14(13)16)18-22-11-17(23-18)12-5-7-20-8-6-12;;/h1-8,10-11,15,21H,9,19H2,(H,22,23);2*1H/t15-;;/m1../s1
